US05219863
A mixture of N-(2-(4-aminophenoxy)ethyl)phthalimide (4.2 g), methylpropionylacetate (1.94 g) and p-toluenesulphonic acid (100 mg) in benzene (95 ml) was stirred and heated at reflux for 3 hours with azeotropic removal of water. Volatile material was then removed by evaporation and the residue was added to a refluxing eutectic mixture of 26.5% v/v diphenyl and 73.5% v/v diphenyl oxide (25 ml). The mixture was heated at reflux for 15 minutes and then cooled to ambient temperature. Hexane (80 ml) was added to the mixture which was triturated to give a solid. The solid was collected by filtration and washed with hexane. Ethyl acetate (70 ml) was added to the solid and the mixture was heated at reflux for 5 minutes and then cooled in an ice-bath. The undissolved solid was collected by filtration and washed with ethyl acetate to give 2-ethyl-6-(2-phthalimidoethoxy)-4-quinolone (2.5 g) as an off white solid, m.p. 168°-171° C.; NMR (d6 -DMSO): 1.24(t, 3H), 2.59(q, 2H), 4.0(t, 2H), 4.28(t, 2H), 5.87(s, 1H), 7.18(dd, 1H), 7.45(m, 2H), 7.84(m, 4H), 11.4(br s, 1H).

reactant | N-(2-(4-aminophenoxy)ethyl)phthalimide | 4.2 g | NC1=CC=C(OCCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C16H14N2O3
reactant | methylpropionylacetate | 1.94 g | CCCC(=O)CC(=O)[O-]
reactant | water | O | H2O
solvent | benzene | 95 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulphonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-ethyl-6-(2-phthalimidoethoxy)-4-quinolone | 2.5 g | C(C)C1=NC2=CC=C(C=C2C(C1)=O)OCCN1C(C=2C(C1=O)=CC=CC2)=O | C21H18N2O4
